US05256780
To a solution of 3-ethyl-2-indolecarbaldehyde (4.0 g) and nitromethane [4.93 g) in methanol (80 ml) was added dropwise 50% aqueous sodium hydroxide solution at 0~-5° C. for an hour. After being stirred at the same temperature for an hour and at room temperature for an hour. The mixture was poured into a mixture of chilled water and 12N hydrochloric acid (4:1, 500 ml). The precipitates were collected, washed with water and dried to give 3-ethyl-2-(2-nitrovinyl)indole.

reactant | 3-ethyl-2-indolecarbaldehyde | 4.0 g | C(C)C1=C(NC2=CC=CC=C12)C=O | C11H11NO
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 12N, 500 ml | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
solvent | water | O | H2O
product | 3-ethyl-2-(2-nitrovinyl)indole | C(C)C1=C(NC2=CC=CC=C12)C=C[N+](=O)[O-] | C12H12N2O2
